US07297704B2
8-Fluoro-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylic acid (intermediate 8)
To a solution of ethyl 8-fluoro-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylate (2.5 g, 9 mmol) in EtOH (60 mL) was added KOH (0.81 g, 15 mmol). The reaction was stirred at 40° C. overnight. After cooling in an ice-water bath, the mixture was acidified to pH 2-3 with 1 N HCl. Water was added and the resulting white solid precipitate was collected and dried to afford 2.15 g (96%) of the title compound: mp 245° C. (dec.), MS (−) 249 (M−H)−.

reactant | ethyl 8-fluoro-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylate | 9 mmol, 2.5 g | FC=1C=CC2=C(C3=C(S2)CCC(C3)C(=O)OCC)C1 | C15H15FO2S
reactant | KOH | 15 mmol, 0.81 g | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
reactant | Water | O | H2O
solvent | EtOH | 60 mL | CCO | C2H6O
product | 8-Fluoro-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylic acid | 2.15 g, 96% | FC=1C=CC2=C(C3=C(S2)CCC(C3)C(=O)O)C1 | C13H11FO2S
